US07968570B2
A mixture of 4-bromo-2,6-dimethyl-benzoic acid methyl ester (3.4 g, 14.2 mmol), N-bromosuccinamide (2.5 g, 14.2 mmol), and benzoyl peroxide (0.060 g, 0.25 mmol) in carbon tetrachloride (50 mL) was heated at reflux until majority of ester was consumed (as analyzed by GC/MS). The resulting mixture was filtered and the filtrate concentrated to afford 4-bromo-2-bromomethyl-6-methyl-benzoic acid methyl ester. The product obtained was used without further purification.

reactant | 4-bromo-2,6-dimethyl-benzoic acid methyl ester | 14.2 mmol, 3.4 g | COC(C1=C(C=C(C=C1C)Br)C)=O | C10H11BrO2
reactant | N-bromosuccinamide | 14.2 mmol, 2.5 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | benzoyl peroxide | 0.25 mmol, 0.060 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-2-bromomethyl-6-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1C)Br)CBr)=O | C10H10Br2O2
